*****************************************************************
* NXP PSMN9R5-30YLC
*
* Polarity N-Channel
* Ratings 30V/9.800000E-003OHMS/44A
*
* Date Created Tue Aug 30 03:11:32 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN9R5-30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 3000000000 TC=-0.05

RS 6 7 0.0001

*RD 3 4 0.0069564372659896 TC=0.00598508181402724,-1.95714408185132E-06
RD 3 4 0.0065 TC=0.00598508181402724,-1.95714408185132E-06
RBD 9 4 0.00286620304949916 TC=0.00598508181402724,-1.95714408185132E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 6e-10
RG 1 2 2.32863376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	594
+ -10	593
+ -5	589
+ -4	586
+ -3	572
+ -2	414
+ -1	340
+ -0.5	277
+ -0.2	239
+ -0.1	227
+ 0	216
+ 0.1	200
+ 0.2	186
+ 0.5	153
+ 1	122
+ 2	94
+ 3	81
+ 4	72
+ 5	67
+ 6	63
+ 8	57
+ 10	53
+ 12	51
+ 15	48
+ 20	45
+ 25	42
+ 30	39


.MODEL MINT NMOS(Vto=2.05 Kp=1.05e+002 Nfs=440000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=34 Ibv=2.500000E-004 Rs=1E-6 Is=3.47056694145018e-13
+ N=1 M=0.64 VJ=0.89 Fc=0.5 Cjo=7.46e-10 Tt=1.8576e-08)

.ENDS

